US07291632B2
2,4,6-Trifluoro-N-(3-(N-methyl-N-(1-methylpiperidin-4-yl)amino)phenyl)benzamide dihydrochloride
Load 1-methyl-4-(N-(3-aminophenyl)-N-methylamino)piperidine trihydrochloride (Preparation 11, 240 mg, 1.094 mmol) in methanol (2 ml) onto a SCX column (2 g cartridge, Varian). Elute with ammonia (2.0 M in methanol) to obtain the corresponding free base. Concentrate to dryness. Dissolve the resulting brown oil in dioxane (2 mL) and divide the solution into two aliquots (2×1 mL). Take one of the aliquots and add dioxane (1 mL). Add 2,4,6-trifluoro-benzoyl chloride (0.052 mL, 0.401 mmol) neat. Shake and heat at 106.5° C. for 2 hr. Cool to ambient temperature and load onto a SCX column (1 g cartridge, Varian). Elute with ammonia (2.0 M in methanol). Purify further by flash chromatography using 20/1 mixture of dichloromethane and 2.0 M ammonia in methanolto provide the free base of the title compound (86 mg, 62%). Following a salt formation method similar to Example 1 gives the title compound as a white solid (99 mg): mp 199–200° C.; mass spectrum (free base, ion spray): m/z=378.2 (M+1), 1H NMR (free base, CDCl3): 7.44 (bs, N—H), 7.31 (bs, 1H), 7.19 (t, J=8.3 Hz, 1H), 6.80–6.73 (m, 3H), 6.60 (dd, J=2.2 Hz, 8.3 Hz, 1H), 3.64 (tt, J=4.0 Hz, 11.9 Hz, 1H), 3.05 (bd, J=10.8 Hz, 2H), 2.81 (s, 3H), 2.38 (s, 3H), 2.28–2.17 (bm, 2H), 2.06–1.92 (bm, 2H), 1.76 (bd, J=12.2 Hz, 2H).

reactant | 1-methyl-4-(N-(3-aminophenyl)-N-methylamino)piperidine trihydrochloride | 1.094 mmol, 240 mg | Cl.Cl.Cl.CN1CCC(CC1)N(C)C1=CC(=CC=C1)N
reactant | 2,4,6-trifluoro-benzoyl chloride | 0.401 mmol, 0.052 mL | FC1=C(C(=O)Cl)C(=CC(=C1)F)F | C7H2ClF3O
solvent | methanol | 2 ml | CO | CH4O
product | 2,4,6-Trifluoro-N-(3-(N-methyl-N-(1-methylpiperidin-4-yl)amino)phenyl)benzamide dihydrochloride | 86 mg, 62% | Cl.Cl.FC1=C(C(=O)NC2=CC(=CC=C2)N(C2CCN(CC2)C)C)C(=CC(=C1)F)F | InChI=1S/C20H22F3N3O.2ClH/c1-25-8-6-15(7-9-25)26(2)16-5-3-4-14(12-16)24-20(27)19-17(22)10-13(21)11-18(19)23;;/h3-5,10-12,15H,6-9H2,1-2H3,(H,24,27);2*1H
